US08084469B2
4-Nitrophenyl thiomorpholine-4-carboxylate 1,1-dioxide
17.0 g (99.2 mmol) of thiomorpholine 1,1-dioxide hydrochloride were initially charged in 100 ml of dichloromethane and, while cooling with an ice bath, admixed with 20.7 ml (15.1 g, 148.8 mmol) of triethylamine. 10.0 g (49.6 mmol) of 4-nitrophenyl chloroformate were added in portions. The reaction mixture was stirred at RT for 30 minutes, admixed with water and ethyl acetate and then filtered. The residue was dried under high vacuum. Yield: 12.4 g (83% of theory)

reactant | thiomorpholine 1,1-dioxide hydrochloride | 99.2 mmol, 17.0 g | Cl.N1CCS(CC1)(=O)=O
reactant | triethylamine | 148.8 mmol, 20.7 ml, 15.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 49.6 mmol, 10.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Nitrophenyl thiomorpholine-4-carboxylate 1,1-dioxide | N1(CCS(CC1)(=O)=O)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O6S
